US06759414B2
Preparation of N-(5-Chloropyridin-2-yl)-2-[(1-cyclohexylpiperidin-4-ylcarbonyl)amino]benzamide
Using procedures substantially equivalent to those described in example 27, N-(5-chloropyridin-2-yl)-2-[(1-cyclohexlpiperidin-4-ylcarbonyl)amino]benzamide (34 mg, 72%, 97% pure by HPLC analysis) was prepared from N-(5-chloropyridin-2-yl)-2-[(piperidin-4-ylcarbonyl)amino]-benzamide trifluoroacetate and cyclohexanone.

reactant | N-(5-chloropyridin-2-yl)-2-[(piperidin-4-ylcarbonyl)amino]-benzamide trifluoroacetate | FC(C(=O)O)(F)F.ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(=O)C1CCNCC1)=O
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
product | N-(5-Chloropyridin-2-yl)-2-[(1-cyclohexylpiperidin-4-ylcarbonyl)amino]benzamide | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(=O)C1CCN(CC1)C1CCCCC1)=O | C24H29ClN4O2
